US07176242B2
A solution of 7-bromo-N,N-dipropylisoquinolin-1-amine (350 mg, 1.1 mmol) and CuCN (204 mg, 2.2 mmol) in N,N-dimethylformamide (2 mL) was stirred at reflux for 24 h. The reaction mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate (3×50 mL). The combined organics were washed with saturated sodium chloride, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to provide 1-(dipropylamino)isoquinoline-7-carbonitrile (279 mg, which was used without any further characterization.

reactant | 7-bromo-N,N-dipropylisoquinolin-1-amine | 1.1 mmol, 350 mg | BrC1=CC=C2C=CN=C(C2=C1)N(CCC)CCC | C15H19BrN2
reactant | CuCN | 2.2 mmol, 204 mg | C(#N)[Cu]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(dipropylamino)isoquinoline-7-carbonitrile | C(CC)N(C1=NC=CC2=CC=C(C=C12)C#N)CCC | C16H19N3
